US04691037
Bromine is reacted with 1,1'-binaphthol to prepare 2,2'-dibromo-1,1'-binaphthyl. The resulting product is subjected to the preparation method of the conventional Grignard reagent, e.g., using magnesium, to prepare Grignard reagent. The resulting reagent is condensed with di-p-tolylphosphinylchloride to obtain (±)-2,2'-bis(di-p-tolylphosphinyl)-1,1'-binaphthyl. The resulting product is heated together with trichlorosilane to reduce. thereby obtaining (±)-2,2'-bis(di-p-tolylphosphino)-1,1'-binaphthyl (hereinafter referred to a "p-Tolyl BINAP").

reactant | Bromine | BrBr | Br2
reactant | 1,1'-binaphthol | C=1(C(=CC=C2C=CC=CC12)O)C1=CC=CC2=CC=CC=C12 | C20H14O
reactant | 2,2'-dibromo-1,1'-binaphthyl | BrC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)Br | C20H12Br2
reactant | magnesium | [Mg] | Mg
reactant | di-p-tolylphosphinylchloride | C1(=CC=C(C=C1)P(=O)(C1=CC=C(C=C1)C)Cl)C | C14H14ClOP
product | (±)-2,2'-bis(di-p-tolylphosphinyl)-1,1'-binaphthyl | C1(=CC=C(C=C1)P(=O)(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(=O)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C48H40O2P2
